data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3613,4125,[CH3:6][C:7](=[O:8])[C:9]([C:10]#[N:11])=[N+:12]([CH3:13])[C-:14]([C:15]#[N:16])[C:17]([CH3:18])=[O:19].[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:9]([C:7]([CH3:6])=[O:8])([C:10]#[N:11])[N:12]([CH3:13])[C:14]1([C:15]#[N:16])[C:17]([CH3:18])=[O:19],water,298.15,64.57010287623841,48.6538734491272
1084,1182,[CH3:11][C:12]([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)=[N+:19]([CH3:20])[NH-:21].[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][O:2][C:3]12[C:4]([Br:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:12]([CH3:11])([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[N:19]([CH3:20])[NH:21]2,water,298.15,29.033868167830448,-16.700040847535988
3479,3963,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][N-:6][NH+:7]=[C:8]([C:9](=[O:10])[NH:11][CH3:12])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[N:6]([CH3:5])[NH:7][C:8]1([C:9](=[O:10])[NH:11][CH3:12])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1,water,298.15,24.86518542276007,-14.885073589097832
1238,1353,[CH2-:12][N+:13]([CH3:14])=[C:15]([CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[CH2:12][N:13]([CH3:14])[C:15]3([CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,9.422533943184543,-54.90076151457336
119,135,[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][F:7].[CH3:8][C:9](=[O:10])[c:11]1[nH+:12][c-:13]([CH3:14])[c:15](=[O:16])[o:17]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[C:11]2([C:9]([CH3:8])=[O:10])[NH:12][C:13]1([CH3:14])[C:15](=[O:16])[O:17]2,water,298.15,14.741044061362295,-30.04559596681296
1557,1723,[CH3:12][C:13](=[O:14])[C:15]([C:16]#[N:17])=[N+:18]([CH3:19])[C-:20]([C:21]#[N:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[CH:6]([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:15]([C:13]([CH3:12])=[O:14])([C:16]#[N:17])[N:18]([CH3:19])[C:20]2([C:21]#[N:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,23.76773892124196,-23.28393412021996
182,199,[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2.[CH:13]#[N+:14][CH-:15][C:16]([CH3:17])=[O:18]>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[CH:13]=[N:14][CH:15]2[C:16]([CH3:17])=[O:18],water,298.15,7.397376339866122,-56.31274700303772
299,325,[CH3:1][C:2]#[C:3][C:4]([F:5])([F:6])[F:7].[CH3:8][C:9](=[O:10])[CH:11]=[O+:12][C-:13]([C:14]([CH3:15])=[O:16])[C:17]([CH3:18])=[O:19]>>[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[C:13]([C:14]([CH3:15])=[O:16])([C:17]([CH3:18])=[O:19])[O:12][CH:11]1[C:9]([CH3:8])=[O:10],water,298.15,19.86030198579824,-64.46187353917983
2569,2850,[CH3:23][O:24][C:25](=[O:26])[C-:27]([C:28]#[N:29])[N+:30]([CH3:31])=[C:32]([C:33]#[N:34])[C:35]([CH3:36])=[O:37].[N:1]#[C:2][CH:3]1[C:4]#[C:5][C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[CH2:19][CH2:20][CH2:21][CH2:22]1>>[N:1]#[C:2][CH:3]1[C:4]2=[C:5]([C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([c:13]3[cH:14][cH:15][cH:16][cH:17][cH:18]3)[CH2:19][CH2:20][CH2:21][CH2:22]1)[C:32]([C:33]#[N:34])([C:35]([CH3:36])=[O:37])[N:30]([CH3:31])[C:27]2([C:25]([O:24][CH3:23])=[O:26])[C:28]#[N:29],water,298.15,22.949749053842808,-47.83984576277243
3980,4554,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][C:17]#[N:18])[C:19]([CH3:20])=[O:21].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:19]([CH3:20])=[O:21])[N:15]=[C:16]1[C:17]#[N:18],water,298.15,9.06962913131946,-37.77029771798965
4078,4671,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[N-:18][N+:19]([CH3:20])=[NH:21]>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[N:18]([C:16]([CH3:15])=[O:17])[N:19]([CH3:20])[NH:21]2,water,298.15,31.78138917563784,1.6362511527470238
4513,5148,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([O+:12]=[C:13]([C:14]#[N:15])[C:16](=[O:17])[O:18][CH3:19])[C:20](=[O:21])[O:22][CH3:23]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:20](=[O:21])[O:22][CH3:23])[O:12][C:13]1([C:14]#[N:15])[C:16](=[O:17])[O:18][CH3:19],water,298.15,11.578665009992848,-44.9500168986902
